US08211897B2
To a solution of cyclopropylisonitrile (1.91 g, 28.5 mmol), (S)-tert-butyl 1-oxopentan-2-ylcarbamate (3.8 g, 19 mmol) in methylene chloride (100 mL) was added acetic acid (2.28 g, 38 mmol) at 0° C. After the addition was complete the reaction mixture was allowed to warm to 25° C. and stirred for 6 hours. The reaction mixture was diluted with ethyl acetate (200 mL), then washed with a saturated solution of sodium bicarbonate and brine (30 mL) and dried over magnesium sulfate. The solvent was removed under reduced pressure, and the crude product was crystallized from 50 mL of ethyl acetate and hexane(v/v=1/1) to give tert-butyl (3S)-1-(cyclopropylamino)-2-hydroxy-1-oxohexan-3-ylcarbamate (4.8 g) as a white solid.

reactant | cyclopropylisonitrile | 28.5 mmol, 1.91 g | C1(CC1)[N+]#[C-] | C4H5N
reactant | (S)-tert-butyl 1-oxopentan-2-ylcarbamate | 19 mmol, 3.8 g | O=C[C@H](CCC)NC(OC(C)(C)C)=O | C10H19NO3
reactant | acetic acid | 38 mmol, 2.28 g | C(C)(=O)O | C2H4O2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl (3S)-1-(cyclopropylamino)-2-hydroxy-1-oxohexan-3-ylcarbamate | 4.8 g | C1(CC1)NC(C([C@H](CCC)NC(OC(C)(C)C)=O)O)=O | C14H26N2O4
